US05037825
1.20 g of ethyl p-(2,3,4,5-tetrahydro-1-benzothiepine-8-carboxamido)benzoate were dissolved in 40 ml of ethanol and treated with 14 ml of water containing 1.40 g of NaOH. The mixture was stirred at room temperature overnight, poured on to ice and acidified with conc. HCl. The mixture was then extracted twice with ethyl acetate, washed with water, dried and evaporated. Recrystallization from ethyl acetate gave 925 mg of p-(2,3,4,5-tetrahydro-1-benzothiepine-8-carboxamido)benzoic acid as colorless crystals of m.p. 261°-262° C.

reactant | ethyl p-(2,3,4,5-tetrahydro-1-benzothiepine-8-carboxamido)benzoate | 1.20 g | S1CCCCC2=C1C=C(C=C2)C(=O)NC2=CC=C(C(=O)OCC)C=C2 | C20H21NO3S
reactant | water | 14 ml, 1.40 g | O | H2O
reactant | NaOH | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | p-(2,3,4,5-tetrahydro-1-benzothiepine-8-carboxamido)benzoic acid | 925 mg | S1CCCCC2=C1C=C(C=C2)C(=O)NC2=CC=C(C(=O)O)C=C2 | C18H17NO3S
